US07696213B2
2-Amino-8-cyclopentyl-6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (Compound 106)
To the solution of 8-cyclopentyl-6-(1-(2-(methoxymethoxy)ethyl)-1H-pyrazol-4-yl)-4-methyl-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one (80 mg, 0.17 mmol) in 5 ml 1,4-dioxane was babbled through ammonium gas for 10 minutes. The reaction tube was sealed and heated to 100° C. for 30 minutes. The reaction mixture was poured into brine and the precipitate was collected via filtration. The solid was then re-dissolved in 5 ml methanol and a few drop of concentrated HCl was added and the mixture was heated to 50° C. for 5 hours. The reaction mixture was cooled down to room temperature. Solvent was removed via rot vap and the residue was triturated with ethylacetate/hexane to give the title compound (33 mg, 54% yield).

reactant | 8-cyclopentyl-6-(1-(2-(methoxymethoxy)ethyl)-1H-pyrazol-4-yl)-4-methyl-2-(methylsulfonyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.17 mmol, 80 mg | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)S(=O)(=O)C)C=2C=NN(C2)CCOCOC)=O | C21H27N5O5S
reactant | ammonium | [NH4+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-8-cyclopentyl-6-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 33 mg, 54% yield | NC=1N=C(C2=C(N1)N(C(C(=C2)C=2C=NN(C2)CCO)=O)C2CCCC2)C | C18H22N6O2
